US04023926
0.75 mole (10.5 g) of 3-amino-4-methoxy phenol is dissolved in 50 cc of acetone to which have been added 50 cc of ammonia (22° Be) and 250 cc of H2O2 (20 volumes). To this solution there is immediately added 0.05 mole (9.0 g) of paraphenylene diamine dihydrochloride in solution in 100 cc of water. The resulting reaction mixture is agitated for two hours at ambient temperature at which time the reaction mixture is filtered to recover the precipitate which has formed. After recrystallizing the precipitate in ethylacetate and washing the recrystallized product initially with a little methyl cellosolve and then with a little ether, 2-amino-5-[4'-(amino)anilino]-1,4-benzoquinone is obtained which is chromatographically pure and which melts with decomposition above 260° C.

reactant | 3-amino-4-methoxy phenol | 0.75 mole, 10.5 g | NC=1C=C(C=CC1OC)O | C7H9NO2
reactant | ammonia | 50 cc | N | H3N
reactant | H2O2 | 250 cc | OO | H2O2
reactant | paraphenylene diamine dihydrochloride | 0.05 mole, 9.0 g | Cl.Cl.C1(=CC=C(C=C1)N)N
solvent | acetone | 50 cc | CC(=O)C | C3H6O
solvent | water | 100 cc | O | H2O
product | 2-amino-5-[4'-(amino)anilino]-1,4-benzoquinone | NC=1C(C=C(C(C1)=O)NC1=CC=C(C=C1)N)=O | C12H11N3O2
